US07576105B2
To a solution of 3-(N-tert-butoxycarbonylmethylamino)benzoic acid (10.0 g, 39.8 mmol) in 100 mL of tetrahydrofuran was added carbonyl diimidazole (6.78 g, 41.8 mmol) under Argon. After 2 h of stirring, diethylamine (5.82 g, 79.4 mmol) was added, and the reaction mixture was stirred for 18 h and then refluxed 3 h. After cooling, water (50 mL) was added to the reaction flask, and the contents were concentrated on a rotary evaporator. The resulting mixture was extracted three times with dichloromethane (50 mL). These extracts were combined, washed twice with 1 N aqueous hydrochloric acid solution (50 mL) and twice with water (50 mL), dried (Na2SO4), and concentrated to give 11.9 g (98%) of N,N-diethyl 3-(N-tert-butoxycarbonylmethylamino)benzamide as a yellow oil. MS (ES), m/z 307 (MH+). 300 MHz 1H NMR (CDCl3) δ1.03-1.19 (br m, 3H), 1.15-1.30 (br m, 3H), 1.45 (s, 9H), 3.14-3.31 (br m, 2H), 3.45-3.62 (br m, 2H), 4.33 (d, J=5.6 Hz, 1H), 4.95 (br s, 1H), 7.19-7.38 (m, 4H).

reactant | 3-(N-tert-butoxycarbonylmethylamino)benzoic acid | 39.8 mmol, 10.0 g | C(C)(C)(C)OC(=O)CNC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | carbonyl diimidazole | 41.8 mmol, 6.78 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | diethylamine | 79.4 mmol, 5.82 g | C(C)NCC | C4H11N
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N,N-diethyl 3-(N-tert-butoxycarbonylmethylamino)benzamide | 11.9 g, 98% | C(C)N(C(C1=CC(=CC=C1)NCC(=O)OC(C)(C)C)=O)CC | C17H26N2O3
